data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-c1ccc(OC)cc1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(Cc1ccc(OC)cc1)C=O","C(Cc1ccc(OC)cc1)C=O"],"products_smiles": ["C(Cc1ccc(OC)cc1)C=C(C=O)c1ccc(OC)cc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C=O)c1ccc(OC)cc1","rationale": "The base abstracts the acidic alpha-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(Cc1ccc(OC)cc1)C([O-])C(C=O)c1ccc(OC)cc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, favored by polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccc(OC)cc1)C(O)C(C=O)c1ccc(OC)cc1","rationale": "Protonation of the alkoxide intermediate occurs to form the more stable neutral beta-hydroxyketone under basic aqueous conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccc(OC)cc1)C(O)[C-](C=O)c1ccc(OC)cc1","rationale": "The base deprotonates the alpha-position again, generating an enolate that is positioned for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(Cc1ccc(OC)cc1)C=C(C=O)c1ccc(OC)cc1","rationale": "Elimination of hydroxide occurs, forming a conjugated enone stabilized by extended pi-delocalization, making the step thermodynamically favorable."}],"description": "Under basic conditions, an alpha-proton is abstracted to form an enolate, which nucleophilically attacks another carbonyl, forming a beta-hydroxyketone. Subsequent deprotonation and elimination yield the conjugated enone via aldol condensation, driven by resonance stabilization of the product."}
{"reaction_id": "NR-208_1-c1ccc(Cl)cc1_2-CC_3-C_4-c1cnccn1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)=C(CC)C(C)(c1cnccn1)OC=N"],"products_smiles": ["C(=O)NC(c1ccc(Cl)cc1)C(CC)=C(C)(c1cnccn1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(c1ccc(Cl)cc1)C(CC)=C(C)(c1cnccn1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
